subckt oaoi211_x1 A1 A2 B C X VDD VSS
OAOI211OR0_PA0 (pmid_OAOI211OR0_0 A1 VDD VDD) pmos w=2u l=100n
OAOI211OR0_PB0 (oaoi211_or_n A2 pmid_OAOI211OR0_0 VDD) pmos w=2u l=100n
OAOI211OR0_NA0 (oaoi211_or_n A1 VSS VSS) nmos w=1u l=100n
OAOI211OR0_NB0 (oaoi211_or_n A2 VSS VSS) nmos w=1u l=100n
OAOI211ORI0_P0 (oaoi211_or oaoi211_or_n VDD VDD) pmos w=2u l=100n
OAOI211ORI0_N0 (oaoi211_or oaoi211_or_n VSS VSS) nmos w=1u l=100n
OAOI211AND0_PA0 (oaoi211_oa_n oaoi211_or VDD VDD) pmos w=2u l=100n
OAOI211AND0_PB0 (oaoi211_oa_n B VDD VDD) pmos w=2u l=100n
OAOI211AND0_NB0 (oaoi211_oa_n B nmid_OAOI211AND0_0 VSS) nmos w=1u l=100n
OAOI211AND0_NA0 (nmid_OAOI211AND0_0 oaoi211_or VSS VSS) nmos w=1u l=100n
OAOI211ANDI0_P0 (oaoi211_oa oaoi211_oa_n VDD VDD) pmos w=2u l=100n
OAOI211ANDI0_N0 (oaoi211_oa oaoi211_oa_n VSS VSS) nmos w=1u l=100n
OAOI211N20_PA0 (pmid_OAOI211N20_0 oaoi211_oa VDD VDD) pmos w=2u l=100n
OAOI211N20_PB0 (X C pmid_OAOI211N20_0 VDD) pmos w=2u l=100n
OAOI211N20_NA0 (X oaoi211_oa VSS VSS) nmos w=1u l=100n
OAOI211N20_NB0 (X C VSS VSS) nmos w=1u l=100n
ends oaoi211_x1
